US05461053
A) α-Butyryl-4-fluorophenylacetonitrile
10.9 g of sodium are added to 150 ml of absolute ethanol. While maintaining reflux, a solution of 49.5 g of 4-fluorophenylacetonitrile in 65.2 g of ethyl butyrate is added. The reaction mixture is refluxed for 4 hours and then left to stand overnight at room temperature. The solvents are concentrated under vacuum and the residue is taken up in water and washed with ether. The aqueous phase is cooled in an ice bath and acidified to pH 5-6 by the addition of concentrated acetic acid to give crystals, which are filtered off, washed with water and dissolved in methylene chloride.

reactant | sodium | 10.9 g | [Na] | Na
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | 4-fluorophenylacetonitrile | 49.5 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | ethyl butyrate | 65.2 g | C(CCC)(=O)OCC | C6H12O2
product | α-Butyryl-4-fluorophenylacetonitrile | C(CCC)(=O)C(C#N)C1=CC=C(C=C1)F | C12H12FNO
